US04425179
1,3,5-Triphenylpyrazoline
20.8 g benzylideneacetophenone was condensed with 10.8 g phenylhydrazine in 400 ml boiling ethanol over 5 hours, and then allowed to cool. During the cooling process the desired reaction product separates. The sediment was filtered, washed with ethanol and dried.

reactant | benzylideneacetophenone | 20.8 g | C(C1=CC=CC=C1)=CC(=O)C1=CC=CC=C1 | C15H12O
reactant | phenylhydrazine | 10.8 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | C(C)O | C2H6O
product | 1,3,5-Triphenylpyrazoline | C1(=CC=CC=C1)N1NC(=CC1C1=CC=CC=C1)C1=CC=CC=C1 | C21H18N2
